US07256298B2
To a solution of 1.00 g (2.60 mmol) of 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrobromide in 2 ml of N,N-dimethylformamide were added 0.43 g (3.12 mmol) of anhydrous potassium carbonate and 1 ml of water, followed by 1 hour of stirring at room temperature. After the completion of the reaction was confirmed, the reaction solution was poured into water and extracted with diethyl ether. The resulting organic layer was washed with water and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure to obtain 0.66 g (purity: 84.9%, yield: 82.4%) of (5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-yl)-methanethiol.

reactant | 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrobromide | 2.60 mmol, 1.00 g | Br.FC(OC1=C(C(=NN1C)C(F)(F)F)CSC(N)=N)F
reactant | potassium carbonate | 3.12 mmol, 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-yl)-methanethiol | 0.66 g, yield: 82.4% | FC(OC1=C(C(=NN1C)C(F)(F)F)CS)F | C7H7F5N2OS
